US07973078B2
34.5 g of N-(3-chloro-2-methylphenyl)-4-methylbenzenesulfonamide was dissolved in 232 mL of DMF, and 21.4 g of ethyl bromoacetate and 19.3 g of potassium carbonate were added thereto, followed by stirring at 100° C. for 1 hour. The reaction liquid was cooled to room temperature, and then water was added, followed by extraction with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=80:20) to obtain 34.6 g of ethyl N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycine.

reactant | N-(3-chloro-2-methylphenyl)-4-methylbenzenesulfonamide | 34.5 g | ClC=1C(=C(C=CC1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C14H14ClNO2S
reactant | ethyl bromoacetate | 21.4 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 19.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | DMF | 232 mL | CN(C)C=O | C3H7NO
product | ethyl N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycine | 34.6 g | C(C)C(N(S(=O)(=O)C1=CC=C(C=C1)C)C1=C(C(=CC=C1)Cl)C)C(=O)O | C18H20ClNO4S
